US08877801B2
To a flask containing (E)-methyl 3-(4-((6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylate (800 mg, 2.35 mmol) in anhydrous DMA (3.0 mL) was added 1-iodo-2-isopropylbenzene (0.751 mL, 4.70 mmol) followed by chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′,4′,6′-tri-1-propyl-1,1′-biphenyl][2-(2-aminoethyl)phenyl]palladium(II) (BrettPhos palladacycle 1st generation, 188 mg, 0.24 mmol), trimethylacetic acid (0.818 mL, 7.05 mmol) and potassium carbonate (974 mg, 7.05 mmol). The flask was sealed, purged and back-filled with nitrogen and the resulting mixture was heated to 150° C. for 2 h after which time the reaction was diluted with EtOAc, and washed with water and brine. The combined organic layer was dried over anhydrous MgSO4, filtered and concentrated in vacuo to give a red brown residue which was purified by column chromatography (SiO2, 0-30% EtOAc/heptane) to afford (E)-methyl 3-(4-((2-(2-isopropylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylate (675 mg, 1.48 mmol, 63% yield). LC/MS (m/z, MH+): 459.0.

reactant | (E)-methyl 3-(4-((6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylate | 2.35 mmol, 800 mg | COC=1C=CC2=C(SC=C2OC2=CC=C(C=C2)/C=C/C(=O)OC)C1 | C19H16O4S
reactant | 1-iodo-2-isopropylbenzene | 4.70 mmol, 0.751 mL | IC1=C(C=CC=C1)C(C)C | C9H11I
reactant | trimethylacetic acid | 7.05 mmol, 0.818 mL | CC(C(=O)O)(C)C | C5H10O2
reactant | potassium carbonate | 7.05 mmol, 974 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 3.0 mL | CC(=O)N(C)C | C4H9NO
product | (E)-methyl 3-(4-((2-(2-isopropylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylate | 1.48 mmol, 675 mg, 63% yield | C(C)(C)C1=C(C=CC=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(C=C2)/C=C/C(=O)OC | C28H26O4S
